US06432993B1
5-{4-[6-(4-Acetylamino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride (Exemplified Compound No. 1-808)
A mixture of 155 mg of 5-{4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride, 36 mg of acetic anhydride, 107 mg of pyridine, 7.3 mg of 4-(N,N-dimethylamino)pyridine and 5 ml of anhydrous tetrahydrofuran was heated under reflux for 2 hours. The reaction mixture was concentrated by evaporation. Water was added to the concentrate, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. To the residue, 10 ml of 4N hydrochloric acid/ethyl acetate were added, followed by stirring at room temperature for 21 hours. The insoluble product was collected by filtration, followed by washing with ether, whereby 97 mg of the title compound were obtained.

reactant | 5-{4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride | 155 mg | Cl.Cl.NC1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1C)C
reactant | acetic anhydride | 36 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 107 mg | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 7.3 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-{4-[6-(4-Acetylamino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 97 mg | Cl.C(C)(=O)NC1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1C)C | InChI=1S/C29H28N4O5S.ClH/c1-16-11-22(12-17(2)27(16)30-18(3)34)38-21-9-10-23-24(14-21)33(4)26(31-23)15-37-20-7-5-19(6-8-20)13-25-28(35)32-29(36)39-25;/h5-12,14,25H,13,15H2,1-4H3,(H,30,34)(H,32,35,36);1H
